US08877749B2
To a solution of (R)-benzyl 3-oxocyclopentanecarboxylate (WO 2007092681, 1 g, 4.58 mmol) in methanol (5 mL) was added 2-allyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.155 g, 6.87 mmol) and ammonia (7N solution in MeOH, 8 mL). The resulting mixture was stirred at room temperature for 16 hours. The reaction mixture was concentrated and the residue was subjected to preparative HPLC(Shimadzu VP-ODS 20×100 mm, 8 min. gradient, Solvent A: 10% MeOH, 90% H2O, 0.1% TFA; Solvent B: 90% MeOH, 10% H2O, 0.1% TFA; wavelength: 220 nM). The desired fractions were collected, concentrated and partitioned between ethyl acetate (20 mL) and saturated aqueous sodium bicarbonate solution (10 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to yield (1R)-benzyl 3-allyl-3-aminocyclopentanecarboxylate (616 mg, 2.38 mmol, 52% yield). MS (ESI+) m/z 260 (M+H)+

reactant | (R)-benzyl 3-oxocyclopentanecarboxylate | 4.58 mmol, 1 g | O=C1C[C@@H](CC1)C(=O)OCC1=CC=CC=C1 | C13H14O3
reactant | 2-allyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 6.87 mmol, 1.155 g | C(C=C)B1OC(C(O1)(C)C)(C)C | C9H17BO2
reactant | ammonia | 7N, 8 mL | N | H3N
solvent | methanol | 5 mL | CO | CH4O
product | (1R)-benzyl 3-allyl-3-aminocyclopentanecarboxylate | 2.38 mmol, 616 mg, 52% yield | C(C=C)C1(C[C@@H](CC1)C(=O)OCC1=CC=CC=C1)N | C16H21NO2
